US06465485B1
7Cyano-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline
A mixture of 7-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline (51.7 g, 0.168 mol), copper (I) cyanide (31.8 g, 0.35 mol) and N-methyl-2-pyrrolidinone (620 ml) was heated at reflux for 4 h, cooled, then partitioned between dilute aqueous ammonia (1.5 L) and dichloromethane (5×300ml). The combined organic extracts were dried (Na2O4) and evaporated in vacuo to give the title compound (42.6 g, 100%) as an oil.

reactant | 7-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 0.168 mol, 51.7 g | BrC1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | copper (I) cyanide | 0.35 mol, 31.8 g | [Cu]C#N
solvent | N-methyl-2-pyrrolidinone | 620 ml | CN1C(CCC1)=O | C5H9NO
product | 7Cyano-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 42.6 g, 100% | C(#N)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C12H9F3N2O
